US03962341
A mixture of 200 parts of 3,3-dimethylacrolein, 600 parts of tetrahydrofuran and 1 part of formic acid is heated for 2 hours at a pressure of 120 atmospheres and a temperature of 280°C in an autoclave. The reaction product is worked up by distillation. 106 parts of piperitenone is obtained having a boiling point of 120° to 122°C at 14 mm Hg. The yield is 83% of theory at a conversion of 72%.

reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | formic acid | C(=O)O | CH2O2
product | piperitenone | yield is 83% | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
